US07576215B2
2-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-4-FLUOROPHENOL
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 5-fluoro-2-hydroxybenzaldehyde according to the procedure of step 1, Example 66. MS (ESI) m/z 503; MS (ESI) m/z 501.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 5-fluoro-2-hydroxybenzaldehyde | FC=1C=CC(=C(C=O)C1)O | C7H5FO2
product | 2-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-4-FLUOROPHENOL | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=C(C=CC(=C1)F)O)C(F)(F)F | C30H22F4N2O
